US07772227B2
(R)-3-Cyclohexyl-2,3-dihydro-6-(4-ethylpiperazin-1-ylcarbonyl)pyrrolo[1,2,3-de]-1,4-benzoxazine hydrochloride salt
To a solution of (R)-3-cyclohexyl-2,3-dihydropyrrolo[1,2,3-de]-1,4-benzoxazine (80 mg, 0.33 mmol) in 1,1,2,2-tetrachloroethane (2.0 ml), was added oxalyl chloride (46 mg, 0.36 mmol) with stirring under a stream of nitrogen. The mixture was heated at 120° C. for 1 hour. The mixture was cooled to room temperature and triethylamine (36 mg, 0.36 mmol) and N-ethylpiperazine (45 mg, 0.40 mmol) were added. The mixture was stirred at room temperature for 18 h then partitioned between dichloromethane and water. The aqueous layer was extracted with dichloromethane, and the combined organic layers were washed with brine, dried over Na2SO4 and concentrated. The resulting brown oil was purified by flash chromatography using 5% (v/v) methanol in dichloromethane as eluent to yield the title compound as the free base. Hydrochloride salt formation was achieved by the addition of hydrogen chloride (2 M solution in diethyl ether, 0.5 ml) to a solution of the free base in diethyl ether (2 ml) and ethanol (1 ml). The solvent was removed in vacuo and the precipitate was dried to afford title compound (1:1 hydrochloride salt) as a solid (70 mg, 0.17 mmol).

reactant | (R)-3-cyclohexyl-2,3-dihydropyrrolo[1,2,3-de]-1,4-benzoxazine | 0.33 mmol, 80 mg | C1(CCCCC1)[C@@H]1COC=2C=3N1C=CC3C=CC2 | C16H19NO
reactant | oxalyl chloride | 0.36 mmol, 46 mg | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | triethylamine | 0.36 mmol, 36 mg | C(C)N(CC)CC | C6H15N
reactant | N-ethylpiperazine | 0.40 mmol, 45 mg | C(C)N1CCNCC1 | C6H14N2
solvent | 1,1,2,2-tetrachloroethane | 2.0 ml | ClC(C(Cl)Cl)Cl | C2H2Cl4
product | (R)-3-Cyclohexyl-2,3-dihydro-6-(4-ethylpiperazin-1-ylcarbonyl)pyrrolo[1,2,3-de]-1,4-benzoxazine hydrochloride salt | Cl.C1(CCCCC1)[C@@H]1COC=2C=3N1C=C(C3C=CC2)C(=O)N2CCN(CC2)CC | InChI=1S/C23H31N3O2.ClH/c1-2-24-11-13-25(14-12-24)23(27)19-15-26-20(17-7-4-3-5-8-17)16-28-21-10-6-9-18(19)22(21)26;/h6,9-10,15,17,20H,2-5,7-8,11-14,16H2,1H3;1H/t20-;/m0./s1
